US06248755B1
Step F: (R)-1-phenyl-(R)-2-cyclobutyl propanol
A dry flask was charged with 25 mL THF and a solution of L-selectride® (12.6 mL, 1M in THF, 12.6 mmol) was added. The solution was cooled to −78 C and a solution of (R)-Cyclobutylpropiophenone (2.38 grams, 12.6 mmol) in 5 mL THF was added. After stirring at −78 C for 1 h the was warmed to room temperature gradually overnight. Sat'd sodium bicarbonate was added and the mixture was extrated with ethyl acetate. The organic portion was washed with water and sat'd NaCl. The solvent was removed and the residue was dissolved in methanol (100 mL). Concentrated HCl (1 mL) was added and the mixture was stirred at 50 C for 15 hours. After removal of the solvent the product was purified by flash chromatography (100/1 hexane/ethyl acetate→20/1 hexane ethyl acetate) to afford 1.4 grams (58%) of product. 1H NMR (500 MHz, CDCl3). δ0.68 (d, 3H), 1.64-1.98 (m, 6H), 2.02-2.09 (m, 1H), 2.11-2.19 (m, 1H), 4.58 (d, 1H), 7.23-7.38 (m, 5H).

reactant | L-selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | (R)-Cyclobutylpropiophenone | 12.6 mmol, 2.38 grams | C1(CCC1)[C@H](C(=O)C1=CC=CC=C1)C | C13H16O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (R)-1-phenyl-(R)-2-cyclobutyl propanol | 1.4 grams, 58% | C1(=CC=CC=C1)[C@@H]([C@H](C)C1CCC1)O | C13H18O
